US07071175B1
A solution of 2-(2-tert-butoxycarbonylamino-pyridin-4-ylmethyl)-acrylic acid ethyl ester (0.48 g, 1.57 mmol) and triethylamine (0.17 g, 1.64 mmol) was added to thioacetic acid (3 mL) at 0° C. under nitrogen. The mixture was stirred at room temperature for 4 h. The mixture was poured onto ice-water and extracted with CH2Cl2. The organic phase was washed with saturated NaHCO3 (aq) and dried. The crude product was purified by flash chromatography (2.5% MeOH in CH2Cl2) to give 2-acetylsulfanylmethyl-3-(2-tert-butoxycarbonylamino-pyridin-4-yl)-propionic acid ethyl ester (0.60 g, 100%).

reactant | 2-(2-tert-butoxycarbonylamino-pyridin-4-ylmethyl)-acrylic acid ethyl ester | 1.57 mmol, 0.48 g | C(C)OC(C(=C)CC1=CC(=NC=C1)NC(=O)OC(C)(C)C)=O | C16H22N2O4
reactant | triethylamine | 1.64 mmol, 0.17 g | C(C)N(CC)CC | C6H15N
reactant | thioacetic acid | 3 mL | C(C)(=S)O | C2H4OS
product | 2-acetylsulfanylmethyl-3-(2-tert-butoxycarbonylamino-pyridin-4-yl)-propionic acid ethyl ester | 0.60 g, 100% | C(C)OC(C(CC1=CC(=NC=C1)NC(=O)OC(C)(C)C)CSC(C)=O)=O | C18H26N2O5S
